US07645753B2
3-Ethoxy-4-hydroxy-benzoic acid
A solution of silver nitrate (45.0 g, 265.0 mmol, 1.0 equiv) in water (230 mL) was treated with NaOH (10.6 g, 265 mmol, 1.0 equiv) and stirred for 20 min at rt. The formed precipitate was filtered off, washed with water (3×200 mL) and directly suspended in water (260 mL). To this suspension was added 3-ethoxy-4-hydroxy-benzaldehyde (20.0 g, 120.4 mmol, 0.45 equiv) and NaOH (26.5 g, 662.5 mmol, 2.5 equiv) the reaction mixture heated to reflux for 2 h. The reaction mixture was filtered, acidified to pH 2 by addition of sulfuric acid and the solution extracted with ethyl acetate (3×100 mL). The combined organic phases were dried over MgSO4, the solvent removed by evaporation under reduced pressure and the crude material purified over a plug of silica eluting with dichloromethane/methanol/acetic acid (97:2:1) to give 5.8 g (27%) of the title compound. 1H NMR (300 MHz, DMSO): δ 1.32 (t, J=7.0 Hz, 3H), 4.04 (q, J=7.0 Hz, 2H), 6.88 (d, J=8.0 Hz, 1H), 7.46 (s, 1H), 7.48 (d, J=8.0 Hz, 1H), 9.67 (br s, 1H), 12.42 (br s, 1H). 13C NMR (75 MHz, DMSO): δ 14.52, 63.93, 114.09, 115.11, 121.68, 123.49, 146.29, 151.32, 167.22. MS (ISN): 181.0 [M−H]−.

reactant | NaOH | 265 mmol, 10.6 g, 1.0 equiv | [OH-].[Na+]
reactant | 3-ethoxy-4-hydroxy-benzaldehyde | 120.4 mmol, 20.0 g, 0.45 equiv | C(C)OC=1C=C(C=O)C=CC1O | C9H10O3
reactant | NaOH | 662.5 mmol, 26.5 g, 2.5 equiv | [OH-].[Na+]
solvent | water | 230 mL | O | H2O
catalyst | silver nitrate | 265.0 mmol, 45.0 g, 1.0 equiv | [N+](=O)([O-])[O-].[Ag+]
product | 3-Ethoxy-4-hydroxy-benzoic acid | 5.8 g, 27% | C(C)OC=1C=C(C(=O)O)C=CC1O | C9H10O4
